US05283248
1-[5-(Ethylamino)-2-fluoro-4-nitrophenyl]-4-methylpiperazine (2.8 g, 10 mmol) is dissolved in methanol (200 ml) and hydrogenated with 5 percent palladium/carbon under hydrogen at normal pressure. The palladium/carbon is filtered off and the filtrate is evaporated under reduced pressure. The residue is dried in a high vacuum, dissolved in diethyl glycol ethyl ether (10 ml) and then treated with ethyl cyanoacetate (2.26 g, 20 mmol). The solution is heated to 160° for 4 hours. The solvent is then distilled off and the residue is taken up in an acetic acid/ether mixture (100 ml, 1:2). The crystals obtained are filtered off, dissolved in an ethyl acetate/methanol mixture (6:4 and chromatographed on silica gel (eluent: ethyl acetate/methanol 6:4). The product is recrystallized from an ethyl acetate/acetonitrile mixture (9:1). There are obtained 1.17 g (39%) of 1-ethyl-5-fluoro-6-(4-methyl-1-piperazinyl)-2-benzimidazoleacetonitrile with a m.p. of 204°-206°.

reactant | 1-[5-(Ethylamino)-2-fluoro-4-nitrophenyl]-4-methylpiperazine | 10 mmol, 2.8 g | C(C)NC=1C(=CC(=C(C1)N1CCN(CC1)C)F)[N+](=O)[O-] | C13H19FN4O2
reactant | ethyl cyanoacetate | 20 mmol, 2.26 g | C(#N)CC(=O)OCC | C5H7NO2
solvent | methanol | 200 ml | CO | CH4O
solvent | palladium/carbon | [Pd] | Pd
product | 1-ethyl-5-fluoro-6-(4-methyl-1-piperazinyl)-2-benzimidazoleacetonitrile | 1.17 g, 39% | C(C)N1C(=NC2=C1C=C(C(=C2)F)N2CCN(CC2)C)CC#N | C16H20FN5
